US08357679B2
C: 1-(2-Cyano-2-methylpropyl)-3-(2-fluoro-4-(piperazine-1-carbonyl)phenyl)urea
1-(4-(4-Benzylpiperazine-1-carbonyl)-2-fluorophenyl)-3-(2-cyano-2-methylpropyl)urea (4.12 mmol, 1.802 g) and 10% palladium on carbon (0.824 mmol, 0.877 g) were stirred in ethanol (40 mL) under a hydrogen atmosphere at 5 bar at room temperature overnight with a few drops of 5M hydrochloric acid. The catalyst was filtered off and the filtrate concentrated under reduced pressure to afford the title compound (1.033 g). MS (ESI) m/z 348.3 [M+H]+

reactant | 1-(4-(4-Benzylpiperazine-1-carbonyl)-2-fluorophenyl)-3-(2-cyano-2-methylpropyl)urea | 4.12 mmol, 1.802 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1=CC(=C(C=C1)NC(=O)NCC(C)(C)C#N)F | C24H28FN5O2
catalyst | palladium on carbon | 0.824 mmol, 0.877 g | [Pd] | Pd
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 5M, a few drops | Cl | ClH
product | 1-(2-Cyano-2-methylpropyl)-3-(2-fluoro-4-(piperazine-1-carbonyl)phenyl)urea | 1.033 g | C(#N)C(CNC(=O)NC1=C(C=C(C=C1)C(=O)N1CCNCC1)F)(C)C | C17H22FN5O2
